US05216167
(s) Ethyl 2-ethoxy-4-[N-(5-chloro-2-piperidino-benzyl)aminocarbonylmethyl]-benzoate
Prepared from 5-chloro-2-piperidino-benzylamine and 3-ethoxy-4-ethoxycarbonyl-phenylacetic acid.

reactant | 5-chloro-2-piperidino-benzylamine | ClC=1C=CC(=C(CN)C1)N1CCCCC1 | C12H17ClN2
reactant | 3-ethoxy-4-ethoxycarbonyl-phenylacetic acid | C(C)OC=1C=C(C=CC1C(=O)OCC)CC(=O)O | C13H16O5
product | Ethyl 2-ethoxy-4-[N-(5-chloro-2-piperidino-benzyl)aminocarbonylmethyl]-benzoate | C(C)OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NCC1=C(C=CC(=C1)Cl)N1CCCCC1 | C25H31ClN2O4
